US09278950B2
Step 4: Di-tert-butyl (4-{(3R,4R,5S)-3-[(tert-butoxycarbonyl)amino]-4-hydroxy-5-methylpiperidin-1-yl}pyridin-3-yl)imidodicarbonate
To a solution of di-tert-butyl [4-((3R,4R,5S)-3-[(tert-butoxycarbonyl)amino]-4-{[tert-butyl(dimethyl)silyl]oxy}-5-methylpiperidin-1-yl)pyridin-3-yl]imidodicarbonate (1.01 g, 1.58 mmol) in THF (7.9 mL) at room temperature 1.0 M tetra-n-butylammonium fluoride in THF (1.66 mL, 1.66 mmol) was added. The reaction mixture was stirred at room temperature for 2 h. The mixture was then diluted with EtOAc and water and the layers were separated. The organic layer was washed with brine, dried, and concentrated under reduced pressure. The residue was purified by flash chromatography on silica using CombiFlash® apparatus (0 to 80% EtOAc in hexanes) to give the sub-title compound (771 mg, 93%). LCMS calc. for C26H43N4O7 (M+H)+: m/z=523.3. Found: 523.2.

reactant | di-tert-butyl [4-((3R,4R,5S)-3-[(tert-butoxycarbonyl)amino]-4-{[tert-butyl(dimethyl)silyl]oxy}-5-methylpiperidin-1-yl)pyridin-3-yl]imidodicarbonate | 1.58 mmol, 1.01 g | C(C)(C)(C)OC(=O)N[C@@H]1CN(C[C@@H]([C@H]1O[Si](C)(C)C(C)(C)C)C)C1=C(C=NC=C1)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C32H56N4O7Si
reactant | tetra-n-butylammonium fluoride | 1.0 M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 7.9 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
solvent | THF | 1.66 mmol, 1.66 mL | C1CCOC1 | C4H8O
product | Di-tert-butyl (4-{(3R,4R,5S)-3-[(tert-butoxycarbonyl)amino]-4-hydroxy-5-methylpiperidin-1-yl}pyridin-3-yl)imidodicarbonate | 771 mg, 93% | C(C)(C)(C)OC(=O)N[C@@H]1CN(C[C@@H]([C@H]1O)C)C1=C(C=NC=C1)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C26H42N4O7
